US09290468B2
Step 9: methyl 4-fluoro-5-((2-fluorophenyl)amino)benzo[d]thiazole-6-carboxylate
To a solution of methyl 4-amino-3-fluoro-2-((2-fluorophenyl)amino)-5-mercaptobenzoate in trimethyl orthoformate (50 mL) was added p-TsOH (0.61 g, 3.17 mmol). The reaction mixture was stirred for 1 h and treated with water (100 mL). The precipitate was filtered off and the filter cake was washed with water to afford the desired product (pale yellow solid, 8.64 g, 85.1% yield for two steps). 1H NMR (400 MHz, CDCl3): δ 9.13 (s, 1H), 8.68 (s, 1H), 8.46 (s, 1H), 7.10 (m, 1H), 7.01 (m, 1H), 6.92 (s, 2H), 3.97 (s, 3H).

reactant | methyl 4-amino-3-fluoro-2-((2-fluorophenyl)amino)-5-mercaptobenzoate | NC1=C(C(=C(C(=O)OC)C=C1S)NC1=C(C=CC=C1)F)F | C14H12F2N2O2S
reactant | p-TsOH | 3.17 mmol, 0.61 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | water | 100 mL | O | H2O
solvent | trimethyl orthoformate | 50 mL | C(OC)(OC)OC | C4H10O3
product | methyl 4-fluoro-5-((2-fluorophenyl)amino)benzo[d]thiazole-6-carboxylate | 8.64 g, 85.1% yield | FC1=C(C(=CC2=C1N=CS2)C(=O)OC)NC2=C(C=CC=C2)F | C15H10F2N2O2S
